US09120761B2
(a) Methyl 2-(2-iodophenyl)acetate (I9)
2-(2-Iodophenyl)acetic acid (5.00 g, 19.1 mmol) was placed into a reaction flask and dissolved in MeOH (150 mL). Sulfuric acid (250 μL) was added and reaction mixture was stirred and heated at 80° C. under nitrogen for 16 hours. The resulting mixture was cooled to room temperature and the volatiles removed by evaporation under reduced pressure. The residue was taken up in ethyl acetate (100 mL), washed with 10% NaHCO3 (100 mL), dried (MgSO4) and evaporated under reduced pressure to give the title compound (I9) (5.20 g, 99%) as a clear liquid; 1H NMR (400 MHz, CDCl3) δ 7.85 (dd, J=7.9, 1.0 Hz, 1H), 7.35-7.27 (m, 2H), 6.97 (ddd, J=7.9, 7.0, 2.1 Hz, 1H), 3.81 (s, 2H), 3.72 (s, 3H).

reactant | 2-(2-Iodophenyl)acetic acid | 19.1 mmol, 5.00 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | Sulfuric acid | 250 μL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 150 mL | CO | CH4O
product | Methyl 2-(2-iodophenyl)acetate | 5.20 g, 99% | IC1=C(C=CC=C1)CC(=O)OC | C9H9IO2
